US07727979B2
2-isobutyl-2-methyl-cyclohexanone (Precursor-Product for Example C-28)
The alkylation of 2-methylcyclohexanone with 1-iodo-2-methyl-propane takes place in a manner similar to that described above for the preparation of 2,2-dimethyl-cyclohexanone.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | 1-iodo-2-methyl-propane | ICC(C)C | C4H9I
reactant | 2,2-dimethyl-cyclohexanone | CC1(C(CCCC1)=O)C | C8H14O
product | 2-isobutyl-2-methyl-cyclohexanone | C(C(C)C)C1(C(CCCC1)=O)C | C11H20O
